US07034039B2
A suspension of ethyl 6-chloro-4-hydroxy-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (1.41 g, 5 mmol), methyl iodide (0.47 ml, 7.5 mmol) and potassium carbonate (1.04 g, 7.5 mmol) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 4 h. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to give ethyl 6-chloro-4-methoxy-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (1.11 g, 75.5%) as crystals.

reactant | ethyl 6-chloro-4-hydroxy-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 5 mmol, 1.41 g | ClC=1C=C2C(=C(N(C(C2=CC1)=O)C)C(=O)OCC)O | C13H12ClNO4
reactant | methyl iodide | 7.5 mmol, 0.47 ml | CI | CH3I
reactant | potassium carbonate | 7.5 mmol, 1.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 6-chloro-4-methoxy-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 1.11 g, 75.5% | ClC=1C=C2C(=C(N(C(C2=CC1)=O)C)C(=O)OCC)OC | C14H14ClNO4
